US05250504
By the method of Example 5, Step H, 1.5 g (0.0045 mole) of 4-cyano-5-formyl-1-(2,6-dichloro-4-trifluoromethylphenyl)-1H-pyrazole and 1.0 g (0.0096 mole) of malonic acid were reacted in the presence of 5 mL of pyridine and 10 drops of piperidine, yielding 0.96 g of 3-[4-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-1H-pyrazol-5-yl]acrylic acid. The nmr spectrum of this solid was consistent with the proposed structure.

reactant | 4-cyano-5-formyl-1-(2,6-dichloro-4-trifluoromethylphenyl)-1H-pyrazole | 0.0045 mole, 1.5 g | C(#N)C=1C=NN(C1C=O)C1=C(C=C(C=C1Cl)C(F)(F)F)Cl | C12H4Cl2F3N3O
reactant | malonic acid | 0.0096 mole, 1.0 g | C(CC(=O)O)(=O)O | C3H4O4
catalyst | piperidine | 10 drops | N1CCCCC1 | C5H11N
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
product | 3-[4-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-1H-pyrazol-5-yl]acrylic acid | 0.96 g | C(#N)C=1C=NN(C1C=CC(=O)O)C1=C(C=C(C=C1Cl)C(F)(F)F)Cl | C14H6Cl2F3N3O2
